US04968702
3-Amino-6,8-dichloro-2-(4-chlorophenyl)-4-quinolinecarboxylic acid
A solution of 5.4 g of 5,7-dichloroisatin in water was reacted with 7.21 g of 2-amino-1-(4-chlorophenyl)ethanone hydrochloride by the procedure described in example 33, giving 5.2 g of the desired compound as a yellow solid, mp 260°-261° C.

reactant | 5,7-dichloroisatin | 5.4 g | ClC=1C=C2C(C(NC2=C(C1)Cl)=O)=O | C8H3Cl2NO2
reactant | 2-amino-1-(4-chlorophenyl)ethanone hydrochloride | 7.21 g | Cl.NCC(=O)C1=CC=C(C=C1)Cl
reactant | water | O | H2O
product | 3-Amino-6,8-dichloro-2-(4-chlorophenyl)-4-quinolinecarboxylic acid | 5.2 g | NC=1C(=NC2=C(C=C(C=C2C1C(=O)O)Cl)Cl)C1=CC=C(C=C1)Cl | C16H9Cl3N2O2
